US04082755
A mixture of 8 parts of N-(2-chloroethyl)-4-fluoro-α-(4-fluorophenyl)benzenemethanamine hydrochloride, 5.7 parts of 1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one, 10 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. The reaction mixture is taken up in water and after stirring for a while, the precipitated product is filtered off. The product is washed with 4-methyl-2-pentanone, dried and crystallized from 4-methyl-2-pentanone (activated charcoal). It is filtered off and dried, yielding 4 parts of 8-[2-{[bis(4-fluorophenyl)methyl]amino}ethyl]-1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one; mp. 193° C.

reactant | N-(2-chloroethyl)-4-fluoro-α-(4-fluorophenyl)benzenemethanamine hydrochloride | Cl.ClCCNC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F
reactant | 1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 8-[2-{[bis(4-fluorophenyl)methyl]amino}ethyl]-1-(4-fluorophenyl)-1,3,8-triazaspiro[4,5]decan-4-one | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)NCCN1CCC2(C(NCN2C2=CC=C(C=C2)F)=O)CC1 | C28H29F3N4O
